US04174210
EXAMPLE 9--Preparation of beta-(N-chloroacetyl-2,6-dimethylphenylamino)propionaldehyde O-methyloxime
A 2.0-g (0.024-mol) sample of methoxyamine hydrochloride was added slowly to a slurry of 3.0 g (0.012 mol) beta-(N-chloroacetyl-2,6-dimethylphenylamino)propionaldehyde and 2.0 g (0.02 mol) sodium bicarbonate in 75 ml ethanol. The reaction mixture was stirred at about 35° C. for 2 hours, filtered and evaporated to give 2.9 g of the product as an oil. The product is tabulated in Table I as Compound No. 13-B.

reactant | methoxyamine hydrochloride | Cl.CON
reactant | beta-(N-chloroacetyl-2,6-dimethylphenylamino)propionaldehyde | 0.012 mol, 3.0 g | ClCC(=O)N(CCC=O)C1=C(C=CC=C1C)C | C13H16ClNO2
reactant | sodium bicarbonate | 0.02 mol, 2.0 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | beta-(N-chloroacetyl-2,6-dimethylphenylamino)propionaldehyde O-methyloxime | 2.9 g | CON=CCCN(C(CCl)=O)C1=C(C=CC=C1C)C | C14H19ClN2O2
